US07645760B2
c) (E)-3-(6-Nitroquinolin-7-yl)-acrylic acid methyl ester
6-Nitroquinolin-7-carbaldehyde (920 mg; 4.55 mmol) in toluene (46 ml) and (methoxycarbonylmethylen)triphenylphosphoran (1.67 g; 5.0 mmol) were refluxed for 1 h. The title compound crystallised upon cooling and was filtered off. Recrystallisation from hot EtOAc (250 ml) gave pure title compound (700 mg). The mother liquor was purified via chromatography (SiO2; acetone/hexanes 30/70) to yield a further batch of pure title compound (300 mg). Total yield: 1 g; 85%.

reactant | 6-Nitroquinolin-7-carbaldehyde | 4.55 mmol, 920 mg | [N+](=O)([O-])C=1C=C2C=CC=NC2=CC1C=O | C10H6N2O3
reactant | (methoxycarbonylmethylen)triphenylphosphoran | 5.0 mmol, 1.67 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | toluene | 46 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(6-Nitroquinolin-7-yl)-acrylic acid methyl ester | 700 mg | COC(\C=C\C1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-])=O | C13H10N2O4
